US08835449B2
6-(2,5-dimethoxyphenyl)-1-(2-methoxyethyl)-2-(methylthio)pyrimidin-4(1H)-one
To a mixture of 6-iodo-1-(2-methoxyethyl)-2-(methylthio)pyrimidin-4(1H)-one (100 mg, 0.31 mmol), (2,5-dimethoxyphenyl)boronic acid (0.37 mmol, 1.2 equiv.) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (14 mg, 0.017 mmol, 0.05 equiv) was added degassed 1,4-dioxane (2 mL), followed by a degassed solution of sodium carbonate (65 mg, 0.61 mmol) in water (0.7 mL). This reaction mixture was subjected to microwave irradiation at 120° C. for 30 minutes and the crude reaction mixture was used directly in the next step.

reactant | 6-iodo-1-(2-methoxyethyl)-2-(methylthio)pyrimidin-4(1H)-one | 0.31 mmol, 100 mg | IC1=CC(N=C(N1CCOC)SC)=O | C8H11IN2O2S
reactant | (2,5-dimethoxyphenyl)boronic acid | 0.37 mmol, 1.2 equiv. | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 0.61 mmol, 65 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.7 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.017 mmol, 14 mg, 0.05 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(2,5-dimethoxyphenyl)-1-(2-methoxyethyl)-2-(methylthio)pyrimidin-4(1H)-one | COC1=C(C=C(C=C1)OC)C1=CC(N=C(N1CCOC)SC)=O | C16H20N2O4S
